### PR TITLE
[Merged by Bors] - feat: characterize summability by vanishing of `tsum`s

### PR DESCRIPTION
**Pull request by alreadydone**
---

Zulip: https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Tail.20estimate.20for.20abs.2E.20convergent.20series/near/400324559

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM!

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 1]
```diff
@@ -1189,6 +1189,36 @@ theorem Summable.subtype (hf : Summable f) (s : Set β) : Summable (f ∘ (↑)
   hf.comp_injective Subtype.coe_injective
 #align summable.subtype Summable.subtype
 
+theorem summable_iff_vanishing_tsum : Summable f ↔
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:1192]: The direct implication in your theorem does require completeness, right? And in general the right hand side is equivalent to the fact that the sum over finsets is a Cauchy sequence, if I understand correctly. Could you give a statement like this, modelled on `cauchySeq_finset_iff_vanishing`, and then deduce your result in the complete case? Same thing for next theorem.

Comment (alreadydone) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:1192]: You mean it *doesn't* require completeness, right? I can indeed remove the completeness assumption in the forward implications, even UniformAddGroup; only TopologicalAddGroup is required, and I've generalized [tendsto_tsum_compl_atTop_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/Basic.html#tendsto_tsum_compl_atTop_zero) to remove uniformity and golfed it using my theorem. However, I don't think I can state my theorems using cauchySeq, or even fit the two theorems into the filter framework, since I'm dealing with tsums over general Sets (not necessarily Finsets or complement of Finsets); we certainly can't use `atTop` on `Set α` and have to introduce some other filter.

Comment (sgouezel) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: I wasn't clear, sorry. I am asking if the following is true:
```
theorem foobar {f : α → G} : (CauchySeq fun s : Finset β => ∑ b in s, f b) ↔
    ∀ e ∈ 𝓝 (0 : G), ∃ s : Finset α, ∀ t : Set α, Disjoint t s → (∑' a : t, f a) ∈ e
```

Comment (alreadydone) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: Sorry for the misunderstanding! Your approach indeed looks much nicer.

**Review by sgouezel — COMMENTED** [review]
Thanks! Could you also give a version of `summable_iff_vanishing` with your phrasing (probably `summable_iff_tsum_vanishing`)?
bors d+

**Comment by alreadydone** [comment]
> Thanks! Could you also give a version of `summable_iff_vanishing` with your phrasing (probably `summable_iff_tsum_vanishing`)? bors d+

I removed them in [this commit](https://github.com/leanprover-community/mathlib4/pull/8194/commits/b74578ab08c6c8ba0f32012fbe363c7240f5ab14#diff-541da4ece2c750db4610cdf306da9831a504b2aaa5048819ce47248cc02ab9f0L1283-L1302) (see [this comment](https://github.com/leanprover-community/mathlib4/pull/8194#discussion_r1388565937) for the rationale), but it should be easy to add back the `CompleteUniformAddGroup` section.

**Comment by sgouezel** [comment]
Yes, I've seen that, but I think it's good to have it for coherence.

**Comment by sgouezel** [comment]
Or remove also `summable_iff_vanishing`. But having one and not the other is strange.

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 2]
```diff
@@ -1139,19 +1139,22 @@ theorem cauchySeq_finset_iff_tsum_vanishing :
...
 
 theorem cauchySeq_finset_iff_nat_tsum_vanishing {f : ℕ → α} :
     (CauchySeq fun s : Finset ℕ ↦ ∑ n in s, f n) ↔
       ∀ e ∈ 𝓝 (0 : α), ∃ N : ℕ, ∀ t ⊆ {n | N ≤ n}, (∑' n : t, f n) ∈ e := by
-  refine cauchySeq_finset_iff_tsum_vanishing.trans ⟨fun van e he ↦ ?_, fun van e he ↦ ?_⟩ -- slow!
-  · obtain ⟨s, hs⟩ := van e he
+  refine cauchySeq_finset_iff_tsum_vanishing.trans ⟨fun vanish e he ↦ ?_, fun vanish e he ↦ ?_⟩
+  /- This is slow because CauchySeq requires SemilatticeSup (Finset ℕ) which requires
+    DecidableEq ℕ, which is the classical instance in `cauchySeq_finset_iff_tsum_vanishing`,
+    but a constructive one here. -/
```
Comment (alreadydone) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:1151]: @sgouezel I diagnose the slowness to be due to DecidableEq instance mismatch. Do you think I should add [DecidableEq β] to [summable_iff_cauchySeq_finset](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/Basic.html#summable_iff_cauchySeq_finset) etc.?

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 3]
```diff
@@ -654,7 +657,7 @@ theorem tsum_sum {f : γ → β → α} {s : Finset γ} (hf : ∀ i ∈ s, Summa
 
 /-- Version of `tsum_eq_add_tsum_ite` for `AddCommMonoid` rather than `AddCommGroup`.
 Requires a different convergence assumption involving `Function.update`. -/
-theorem tsum_eq_add_tsum_ite' {f : β → α} (b : β) (hf : Summable (update f b 0)) :
+theorem tsum_eq_add_tsum_ite' [DecidableEq β ]{f : β → α} (b : β) (hf : Summable (update f b 0)) :
```
Comment (alreadydone) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:660]:
```suggestion
theorem tsum_eq_add_tsum_ite' [DecidableEq β] {f : β → α} (b : β) (hf : Summable (update f b 0)) :
```
(let's wait until CI finish to commit this)

**Comment by alreadydone** [comment]
Thanks! 

bors r+

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: > It's a bit surprising that refine worked despite the instance mismatch; a Lean 4 feature?

Actually I think it's because `CauchySeq` actually only needs `Preorder` to work (for `atTop` to make sense), which is independent of the DecidableEq instance; it also explains why `refine` is slow, as Lean needs to unfold to the Preorder. We can probably get rid of some `DecidableEq` added here once we do the refactor there.
